US08791267B2
(4-Fluoro-phenyl)-(6-methoxy-3′-[1,3,4]oxadiazol-2-yl-biphenyl-3-yl)-methanol (P-117).
To a solution of the above aldehyde, 6-Methoxy-3′-[1,3,4]oxadiazol-2-yl-biphenyl3-carbaldehyde (86 mg, 0.307 mmol) in anhydrous THF (1 mL) was added dropwise a solution of 4-fluorophenyl magnesium bromide in THF (0.46 ml, 1M) at −78° C. After the addition was complete, the resulting mixture was allowed to warm to room temperature and stirred for 40 minutes. Then saturated NH4Cl aq. was added. The mixture was extracted with EtOAc (2×10 ml). The combined organic layers were washed with water and dried over Na2SO4. Removal of solvent gave a residue, which was purified by chromatography on silica gel to give 112 mg of the product (P-117). 1H NMR (400 MHz, CDCl3) δ ppm 3.82 (s, 3H), 5.85 (s, 1H), 6.97 (d, J=8.4 Hz, 1H), 6.98-7.05 (m, 2H), 7.31-7.39 (m, 4H), 7.54 (t, 1H), 7.67-7.7 (m, 1H), 8.01-8.04 (m, 1H), 8.23 (s, 1H), 8.46 (s, 1H) ppm; LCMS (ESI+): 377 (M+1).

reactant | 6-Methoxy-3′-[1,3,4]oxadiazol-2-yl-biphenyl3-carbaldehyde | 0.307 mmol, 86 mg | COC1=CC=C(C=C1C1=CC(=CC=C1)C=1OC=NN1)C=O | C16H12N2O3
reactant | 4-fluorophenyl magnesium bromide | FC1=CC=C(C=C1)[Mg]Br
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1M, 0.46 ml | C1CCOC1 | C4H8O
product | (4-Fluoro-phenyl)-(6-methoxy-3′-[1,3,4]oxadiazol-2-yl-biphenyl-3-yl)-methanol | 112 mg | FC1=CC=C(C=C1)C(O)C=1C=C(C(=CC1)OC)C1=CC(=CC=C1)C=1OC=NN1 | C22H17FN2O3
